US06610692B1
Step D: 4-Methyl-7-azaindoline
Potassium hydroxide (1 M, 5 mL) was added to a stirred solution of N-acetyl-4-methyl-7-azaindoline (0.78 g, 4.75 mmol) in methanol (10 mL) and the resulting mixture was heated to 55° C. for 4 h. The mixture was cooled and partitioned between methylene chloride and dilute ammonium hydroxide solution. The organic layer was dried (Na2SO4) and evaporated in vacuo to give the title compound as a yellow solid:

reactant | Potassium hydroxide | 1 M, 5 mL | [OH-].[K+]
reactant | N-acetyl-4-methyl-7-azaindoline | 4.75 mmol, 0.78 g | C(C)(=O)N1CCC2=C(C=CN=C12)C | C10H12N2O
solvent | methanol | 10 mL | CO | CH4O
product | 4-Methyl-7-azaindoline | CC1=C2CCNC2=NC=C1 | C8H10N2
